US07875728B2
Preparation of 5-(2-morpholin-4-ylethyl)-4-(phenylhydrazono)-4H-pyrazol-3-ylamine
To a suspension of 5-morpholin-4-yl-3-oxo-2-(phenylhydrazono)pentanenitrile (1.2 mmole) in 15 mL of diethyl ether was slowly added a solution of hydrazine hydrate (2.4 mmol) in 2 of THF which resulted in a clear red solution. After 2 hours, another portion of hydrazine (2.4 mmol) was added at which point some yellow precipitate was observed. The reaction was stirred at ambient temperature overnight. The solid was collected by filtration, purified by recrystalization from ethanol and dried in vacuo to yield 150 mg (41%) of the title compound. MS (m/z, ES+): 301 (M+1, 100%). 1H NMR (ppm, 300 MHz, DMSO-d6) δ 11.63 (br s, 1H), 7.67 (m, 2H), 7.44 (m, 2H), 7.29 (m, 1H), 6.97 (br s, 2H), 3.55 (m, 4H), 2.93 (m, 2H), 2.66 (m, 2H), 2.43 (m, 4H).

reactant | 5-morpholin-4-yl-3-oxo-2-(phenylhydrazono)pentanenitrile | 1.2 mmole | N1(CCOCC1)CCC(C(C#N)=NNC1=CC=CC=C1)=O | C15H18N4O2
reactant | hydrazine hydrate | 2.4 mmol | O.NN
reactant | THF | C1CCOC1 | C4H8O
reactant | hydrazine | 2.4 mmol | NN | H4N2
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | 5-(2-morpholin-4-ylethyl)-4-(phenylhydrazono)-4H-pyrazol-3-ylamine | 150 mg, 41% | N1(CCOCC1)CCC=1C(C(=NN1)N)=NNC1=CC=CC=C1 | C15H20N6O
